US08808702B2
Synthesis of (E)-1-(4-methoxyphenyl)-2-(4-methoxybenzylsulfonyl)-3-(2,4,6-trimethoxyphenyl)-prop-2-en-1-one
The title compound is prepared by the methods described in Synthesis Example 10. A solution of 1-(4-methoxyphenyl)-2-(4-methoxybenzylsulfonyl)ethanone (10 mmol) and 2,4,6-trimethoxybenzaldehyde (10 mmol) was subjected to the procedure described as Method A in part C of Synthesis Example 10 and the product obtained was purified by column chromatography. m.p. 60-62° C.

reactant | 1-(4-methoxyphenyl)-2-(4-methoxybenzylsulfonyl)ethanone | 10 mmol | COC1=CC=C(C=C1)C(CS(=O)(=O)CC1=CC=C(C=C1)OC)=O | C17H18O5S
reactant | 2,4,6-trimethoxybenzaldehyde | 10 mmol | COC1=C(C=O)C(=CC(=C1)OC)OC | C10H12O4
product | (E)-1-(4-methoxyphenyl)-2-(4-methoxybenzylsulfonyl)-3-(2,4,6-trimethoxyphenyl)-prop-2-en-1-one | COC1=CC=C(C=C1)C(/C(=C\C1=C(C=C(C=C1OC)OC)OC)/S(=O)(=O)CC1=CC=C(C=C1)OC)=O | C27H28O8S
